US05175166
1-Methyl-5(3-methyl-1,2,4-oxadiazol-5-yl)-1,4,5,6-tetrahydropyrimidine HCl
1-Methyl-3-triphenylmethyl-5(3-methyl-1,2,4-oxadiazol-5-yl)-1,4,5,6-tetrahydropyrimidinium Iodide (330 mg, 0.6 mmol) was dissolved in TFA (1 mL) with stirring in a stoppered round bottom flask at room temperature. After 18 hours stirring the excess TFA was evaporated in vacuo, and the dark residue triturated with ether. The ether was decanted leaving an oily residue that was taken up in ice cold sat. Na2CO3 and then extracted with chloroform. After drying and evaporation the chloroform fraction gave the free base which was converted to its HCl salt and recrystallized (methanol/ether) to yellow crystals 15 mg (12%) identified by 300 MHz nmr and ms m/z=180.

reactant | 1-Methyl-3-triphenylmethyl-5(3-methyl-1,2,4-oxadiazol-5-yl)-1,4,5,6-tetrahydropyrimidinium Iodide | 0.6 mmol, 330 mg | [I-].C[NH+]1CN(CC(C1)C1=NC(=NO1)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | HCl | Cl | ClH
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-Methyl-5(3-methyl-1,2,4-oxadiazol-5-yl)-1,4,5,6-tetrahydropyrimidine HCl | Cl.CN1C=NCC(C1)C1=NC(=NO1)C | InChI=1S/C8H12N4O.ClH/c1-6-10-8(13-11-6)7-3-9-5-12(2)4-7;/h5,7H,3-4H2,1-2H3;1H
